US03980788
To a suspension of 0.5 g. of platinum oxide in 25 ml. of ethanol (prereduced as described above) was added a solution of the 1-benzyl-4-methylaminopiperidine and 29.7 ml. of 37 percent aqueous formaldehyde in 60 ml. of ethanol. This suspension was reduced at 50 psi of hydrogen until one equivalent of hydrogen was consumed. The mixture was then filtered and the filtrate concentrated in vacuo. A solution of the residue in benzene was extracted with dilute hydrochloric acid. The aqueous phase was made alkaline with 40 percent aqueous sodium hydroxide and extracted with methylene chloride. The organic layer was dried over anhydrous potassium carbonate and concentrated in vacuo to afford 1-benzyl-4-dimethylaminopiperidine.

reactant | 1-benzyl-4-methylaminopiperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
reactant | formaldehyde | C=O | CH2O
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | one equivalent | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 1-benzyl-4-dimethylaminopiperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C)C | C14H22N2
